US07196103B2
(ii) 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-indole-2,5-dicarboxylic acid 2-ethyl ester 5-isopropyl ester
To a solution of 5.24 g 1H-Indole-2,5-dicarboxylic acid 2-ethyl ester 5-isopropyl ester in 80 ml DMF, 456 mg sodium hydride (60% in mineral oil) were added at RT. After stirring for 30 min 5.3 g 3-Bromomethyl-5-(5-chloro-thiophen-2-yl)-isoxazole [prepared by adopting a procedure described by Ewing, William R.; Becker, Michael R.; Choi-Sledeski, Yong Mi; Pauls, Heinz W.; He, Wei; Condon, Stephen M.; Davis, Roderick S.; Hanney, Barbara A.; Spada, Alfred P.; Burns, Christopher J.; Jiang, John Z.; Li, Aiwen; Myers, Michael R.; Lau, Wan F.; Poli, Gregory B; PCT Int. Appl. (2001), 460 pp. WO 0107436 A2] were added and the mixture was stirred for 2 h at RT. Then additional 91 mg sodium hydride (60% in mineral oil) and 1.06 g 3-Bromomethyl-5-(5-chloro-thiophen-2-yl)-isoxazole were added and stirred for 2 h at RT. After removal of the solvent under reduced pressure the residue was taken-up in DCM (300 ml) and washed twice with water. The organic phase was dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by chromatography on silica gel eluting with heptane/ethyl acetate 6:1. The fractions containing the product were collected and the solvent evaporated under reduced pressure. Yield: 6.3 g.

reactant | 1H-Indole-2,5-dicarboxylic acid 2-ethyl ester 5-isopropyl ester | 5.24 g | C(C)(C)OC(=O)C=1C=C2C=C(NC2=CC1)C(=O)OCC | C15H17NO4
reactant | sodium hydride | 456 mg | [H-].[Na+]
reactant | 3-Bromomethyl-5-(5-chloro-thiophen-2-yl)-isoxazole | 5.3 g | BrCC1=NOC(=C1)C=1SC(=CC1)Cl | C8H5BrClNOS
reactant | sodium hydride | 91 mg | [H-].[Na+]
reactant | 3-Bromomethyl-5-(5-chloro-thiophen-2-yl)-isoxazole | 1.06 g | BrCC1=NOC(=C1)C=1SC(=CC1)Cl | C8H5BrClNOS
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-indole-2,5-dicarboxylic acid 2-ethyl ester 5-isopropyl ester | C(C)(C)OC(=O)C=1C=C2C=C(N(C2=CC1)CC1=NOC(=C1)C=1SC(=CC1)Cl)C(=O)OCC | C23H21ClN2O5S
